US07091228B2
2-Chloro-6-(trifluoromethyl)benzothiazole
Sulfuryl chloride (40 mL) was added with stirring to 2-mercapto-6-(trifluoromethyl)-benzothiazole (18.0 g, 76.7 mmol) at <20° C. under a nitrogen atmosphere, and the suspension was then stirred at rt for 2 h. The reaction mixture was poured into ice water with stirring. Precipitation was formed, and stirring was continued for 2 h. The solid precipitate was filtered, and rinsed with water. The wet filter cake was dissolved in 100 mL EtOAc, and the solution was washed with 100 mL water and 50 mL saturated aqueous NaHCO3 solution, then dried over Na2SO4. EtOAc was removed by rotary evaporation, and the residue was dried in vacuo to afford the desired product as a light yellow solid (16.5 g, 91%). GC-EIMS m/z 237 (M+); 1H NMR (CDCl3) δ 8.10 (s, 1 H), 8.00 (d, 1 H), 7.70 (d, 1 H).

reactant | 2-mercapto-6-(trifluoromethyl)-benzothiazole | 76.7 mmol, 18.0 g | SC=1SC2=C(N1)C=CC(=C2)C(F)(F)F | C8H4F3NS2
reactant | Sulfuryl chloride | 40 mL | S(=O)(=O)(Cl)Cl | Cl2O2S
product | 2-Chloro-6-(trifluoromethyl)benzothiazole | 16.5 g, 91% | ClC=1SC2=C(N1)C=CC(=C2)C(F)(F)F | C8H3ClF3NS
